US04325964
(2) 2-(2,6-Dimethyl-anilino)-acetonitrile
A solution of 158.5 g (0.804 mol) of benzenesulphonate-acetonitrile in 200 ml of ethyl acetate is run dropwise into a solution of 193.6 g (1.608 mols) of 2,6-dimethyl-aniline in 400 ml of ethyl acetate. The mixture is heated under reflux for 3 hours, cooled and the excess aniline benzenesulphonate is filtered off. The filtrate is evaporated to dryness. The residue is taken up in ether. Insoluble material is again filtered off and discarded. The ether is evaporated to dryness. The residue is taken up in a mixture of petroleum ether/benzene (3:4 v/v). The crystals which form are filtered off.

reactant | benzenesulphonate acetonitrile | 0.804 mol, 158.5 g | C1(=CC=CC=C1)S(=O)(=O)[O-].C(C)#N
reactant | 2,6-dimethyl-aniline | 1.608 mols, 193.6 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-Dimethyl-anilino)-acetonitrile | CC1=C(NCC#N)C(=CC=C1)C | C10H12N2
